US06727264B1
6-CHLORO-1-PHENYL-1H-INDOLE:
Prepared by Procedure C and Scheme O using 6-chloro-1H-indole and iodobenzene: ESMS m/e: 228.0 (M+H)+.

reactant | 6-chloro-1H-indole | ClC1=CC=C2C=CNC2=C1 | C8H6ClN
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
product | 6-CHLORO-1-PHENYL-1H-INDOLE | ClC1=CC=C2C=CN(C2=C1)C1=CC=CC=C1 | C14H10ClN
